US08536165B2
Ethyl 2-chloro-5-cyclopropylbenzoate
In a schlenck tube, a mixture of ethyl 5-bromo-2-chlorobenzoate (7.60 mmol, 2 g), 2-cyclopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (7.59 mmol, 1.3 g), Cs2CO3 (18.97 mmol, 6.18 g), PdCl2dppf.CH2Cl2 (0.76 mmol, 0.620 g) in dioxane (70 ml) and water (15 ml) was heated for 2 hours at 110° C., under argon atmosphere. The solvent was evaporated and the mixture was extracted between ethyl acetate and water. The crude mixture was purified by chromatography over SiO2 eluting hexane/ethyl acetate mixtures and affording 1.5 g (yield 92%) of the expected product.

reactant | ethyl 5-bromo-2-chlorobenzoate | 7.60 mmol, 2 g | BrC=1C=CC(=C(C(=O)OCC)C1)Cl | C9H8BrClO2
reactant | 2-cyclopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 7.59 mmol, 1.3 g | C1(CC1)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | Cs2CO3 | 18.97 mmol, 6.18 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CH2Cl2 | 0.76 mmol, 0.620 g | C(Cl)Cl | CH2Cl2
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
product | Ethyl 2-chloro-5-cyclopropylbenzoate | 1.5 g, yield 92% | ClC1=C(C(=O)OCC)C=C(C=C1)C1CC1 | C12H13ClO2
